US06921821B2
4-{1-(2,3-Dihydrobenzo{1,4}dioxin-6-ylmethyl)-piperidin-4-ylamino}-6-vinyl-chromen-2-one (II-57)
4-(Piperidin-4-ylamino)-6-vinyl-chromen-2-one and 2,3-dihydro-benzo{1,4}dioxine-6-carbaldehyde were allowed to react in a manner analogous to that previously described to give the title compound. 1H NMR (500 MHz, DMSO-D6) δ ppm 1.64 (m, 2H) 1.92 (m, 2H) 2.08 (m, 2H) 2.83 (m, 2H) 3.38 (s, 2H) 3.49 (m, 1H) 4.22 (m, 4H) 5.23 (s, 1H) 5.34 (m, 1H) 5.95 (m, 1H) 6.77 (m, 4H) 7.25 (m, 2H) 7.69 (m, 1H) 8.21 (m, 1H); MS (DCI/NH3) m/z 418 [M+H]+.

reactant | 4-(Piperidin-4-ylamino)-6-vinyl-chromen-2-one | N1CCC(CC1)NC1=CC(OC2=CC=C(C=C12)C=C)=O | C16H18N2O2
reactant | 2,3-dihydro-benzo{1,4}dioxine-6-carbaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
product | 4-{1-(2,3-Dihydrobenzo{1,4}dioxin-6-ylmethyl)-piperidin-4-ylamino}-6-vinyl-chromen-2-one | O1CCOC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(OC1=CC=C(C=C21)C=C)=O | C25H26N2O4
